US05232945
H. (R)-6-{(S)-2-Ethoxy-3-[(S)-4-benzyl-2-oxo-3-oxazolidinyl]-3-oxopropyl}-2-[4-(3-fluorobenzyloxy)benzyl]-2H-benzopyran
(R)-6-{(1R,2S)-1-Hydroxy-2-ethoxy-3-[(S)-4-benzyl-2-oxo-3-oxazolidinyl]-3-oxopropyl}-2-[4-(3-fluorobenzyloxy)benzyl]-2H-benzopyran (80 mg, 0.13 mmol) was dissolved in trifluoroacetic acid (2 ml) and triethylsilane (0.20 ml) was added. After 30 minutes the solution was diluted with ether, washed with water (2×) and saturated sodium bicarbonate (2×), dried over magnesium sulfate and concentrated. The product was purified by flash-chromatography (hexanes/ethyl acetate, 2:1) and obtained as an oil (39 mg).

reactant | (R)-6-{(1R,2S)-1-Hydroxy-2-ethoxy-3-[(S)-4-benzyl-2-oxo-3-oxazolidinyl]-3-oxopropyl}-2-[4-(3-fluorobenzyloxy)benzyl]-2H-benzopyran | 0.13 mmol, 80 mg | O[C@@H]([C@@H](C(=O)N1C(OC[C@@H]1CC1=CC=CC=C1)=O)OCC)C=1C=CC2=C(C=C[C@H](O2)CC2=CC=C(C=C2)OCC2=CC(=CC=C2)F)C1 | C38H36FNO7
reactant | triethylsilane | 0.20 ml | C(C)[SiH](CC)CC | C6H16Si
solvent | trifluoroacetic acid | 2 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | ether | CCOCC | C4H10O
product | (R)-6-{(S)-2-Ethoxy-3-[(S)-4-benzyl-2-oxo-3-oxazolidinyl]-3-oxopropyl}-2-[4-(3-fluorobenzyloxy)benzyl]-2H-benzopyran | 39 mg | C(C)O[C@@H](CC=1C=CC2=C(C=C[C@H](O2)CC2=CC=C(C=C2)OCC2=CC(=CC=C2)F)C1)C(=O)N1C(OC[C@@H]1CC1=CC=CC=C1)=O | C38H36FNO6
